US04085212
A mixture of 3-methyl-1,2,3,4-tetrahydroquinazolin-2-thione (5.87 g., prepared as described in J. Pharm. Sci., 1961, 50, 866), methyl iodide (6 ml) and ethanol (230 ml) was refluxed for 1 hour, cooled and diluted with ether. The precipitate (8.27g) was suspended in ethanol (42 ml), treated with hydrazine hydrate (42 ml) and the mixture refluxed for 1 hour, cooled, diluted with water and extracted with chloroform. The extracts were washed, dried and evaporated to give the 2-hydrazinoquinazoline (4.55g). This was dissolved in a mixture of 2N hydrochloric acid (27 ml.) and acetic acid (13 ml), cooled, and treated, dropwise below 5°, with a solution of sodium nitrite (2.04 g) in water (13 ml). The mixture was allowed to stand for a further hour at room temperature, basified with 10N sodium hydroxide solution and the precipitate filtered off and dried. Recrystallization from methanol gave the title compound (1.25 g., m.p. 134°-5° ).

reactant | 3-methyl-1,2,3,4-tetrahydroquinazolin-2-thione | 5.87 g | CN1C(NC2=CC=CC=C2C1)=S | C9H10N2S
reactant | methyl iodide | 6 ml | CI | CH3I
reactant | hydrazine hydrate | 42 ml | O.NN
solvent | ether | CCOCC | C4H10O
solvent | ethanol | 42 ml | C(C)O | C2H6O
solvent | water | O | H2O
solvent | ethanol | 230 ml | C(C)O | C2H6O
product | 2-hydrazinoquinazoline | 4.55g | N(N)C1=NC2=CC=CC=C2C=N1 | C8H8N4
